US08232312B2
3-chloro-5-nitrophenol
1.65 g 3-chloro-5-nitroanisole are combined with 20.3 g pyridinium hydrochloride and heated to 200° C. for 1 hour. Then the mixture is left overnight to come up to ambient temperature, 200 ml of water are added, the precipitated solid is suction filtered and dried in vacuo.

reactant | 3-chloro-5-nitroanisole | 1.65 g | ClC=1C=C(C=C(C1)[N+](=O)[O-])OC | C7H6ClNO3
reactant | pyridinium hydrochloride | 20.3 g | Cl.[NH+]1=CC=CC=C1
solvent | water | 200 ml | O | H2O
product | 3-chloro-5-nitrophenol | ClC=1C=C(C=C(C1)[N+](=O)[O-])O | C6H4ClNO3
